Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Aspirin / Penicillins
 
Attending: ___.
 
Chief Complaint:
headache
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ F with hx of HTN, IBS, impaired fasting glucose, arthritis 
p/w headaches X 1 week with blurred vision intermittently.  Pt 
reports symptoms began 1 week ago with sinus congestion, 
viral-like illness, general malaise and weakness, headaches.  
Nasal congestion improved but headaches persisted and pt 
experiences blurred vision occasionally with headaches.  Also 
describes some chest pressure associated with "gas" type feeling 
in epigastric area, no precipitating factors and relieved with 
burping.  She continued to have headaches and today had BP 
checked in hospital (works in ___ lab here) and was 182/90 so 
called PCP who sent her to ED. 
.
In the ED, initial vs were: T P BP R O2 sat. Patient got a head 
CT which showed a sellar mass.  She was evaluated by 
neurosurgery who recommended endocrine consult, visual field 
testing and admission to medicine.
.
On the floor, pt describes mild headache over front of forehead 
and behind eyes, improved from previously.  No blurred vision 
and otherwise feels well.
.
On ROS, pt describes +palpitations X 2 over past week, no fevers 
or chills, + morning sweats, no weight changes, no N/V, + acid 
reflux, no current SOB, +loose stools, no constipation, no 
melena or hematochezia, no galactorhea, no menstrual bleeding.  
Pt is post-menopausal, had episode of vaginal bleeding last year 
with evaluation by GYN and endometrial biopsy per patient which 
was normal.
 
Past Medical History:
-HTN
-Irritable bowel syndrome, last episode ___ this year 
with diarrhea and abdominal pain
-Hyperlipidemia
-OA
-H/o shingles
-S/p cholecystectomy in ___
-Fibroids
- impaired fasting glucose
 
Social History:
___
Family History:
mother healthy, father with prostate cancer
3 of 7 siblings with diabetes
no hx of thyroid disorders or other cancers
 
Physical Exam:
Physical Exam on Admission:
Vitals: T: 97.7 BP: 144/89 P: 68 R: 16 O2: 99% RA
General: appears well, alert, oriented, no acute distress 
HEENT: Sclera anicteric, MMM, oropharynx clear
Neck: supple, JVP not elevated, no LAD, no thyromegaly or 
thyroid nodules
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Abdomen:  soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema
Neuro: Alert and oriented X 3, Pupils equal, 4mm and reactive to 
direct and consensual light bilaterally, visual fields tested in 
each eye separately and normal, extra-ocular movements intact, 
CN II-XI intact, motor strength ___ in upper and lower 
extremities bilaterally, sensation intact, cerebellar function 
intact, gait intact, reflexes 2+ throughout
.
On discharge, exam was unchanged.
 
Pertinent Results:
___ 12:35PM BLOOD WBC-5.9 RBC-4.67 Hgb-13.3 Hct-38.7 MCV-83 
MCH-28.5 MCHC-34.4 RDW-14.5 Plt ___
___ 12:35PM BLOOD Neuts-70.7* ___ Monos-2.9 Eos-0.9 
Baso-0.6
___ 12:35PM BLOOD ___ PTT-27.6 ___
___ 12:35PM BLOOD Glucose-106* UreaN-14 Creat-0.6 Na-140 
K-4.1 Cl-104 HCO3-26 AnGap-14
___ 12:35PM BLOOD CK(CPK)-196*
___ 12:35PM BLOOD CK-MB-3 cTropnT-<0.01
___ 06:40AM BLOOD Calcium-9.3 Phos-3.6 Mg-2.5
___ 06:40AM BLOOD FSH-3.4 LH-<1.0* Prolact-44* TSH-1.0
___ 06:40AM BLOOD Free T4-0.91*
___ 06:40AM BLOOD Cortsol-24.5*\
.
ECG ___: Normal sinus rhythm, rate 74. No diagnostic 
abnormality. Compared to the previous tracing of ___ no 
significant change. 
.
CXR ___: There is minimal atelectasis in the left lower 
zone. The cardiomediastinal silhouette is unremarkable. The 
right lung is clear. There are no focal pulmonary consolidations 
or pleural effusions. 
.
Head CT ___:
FINDINGS: 
There is an approximately 31 x 20 mm expansile lesion in the 
pituitary fossa. The midline structures are central. There is no 
mass effect or edema. There are no skull fractures. 
Polyp vs retention cyst is noted in the sphenoid sinus. 
CONCLUSION: 
Approximately 31 x 20 mm expansile soft tissue lesion appears to 
be arising from the pituitary fossa. The possibility of a 
pituitary macroadenoma should be considered, however, other 
possibilities like a craniopharyngioma, meningioma and aneurysm 
cannot be entirely excluded. MRI of the brain is recommended. 
.
Pituitary MRI ___:
FINDINGS: There is a 2 cm x 2.5 x 2.5 cm sellar mass extending 
into the 
suprasellar region as well as the sphenoid sinus. There is 
extension lateral to the right carotid artery. There appears to 
be a cleavage plane separating the left carotid artery. The mass 
is minimally heterogeneous with enhancement diffusely. There is 
mass effect on the optic chiasm, with more mass effect on the 
left optic nerve. There is question of enhancement of the right 
optic nerve, but the t2 signal is normal. No other enhancing 
lesions seen in the visualized brain. There is no 
lymphadenopathy in the visualized neck. 
IMPRESSION: 2.5 x 2.5 x 2 cm pituitary mass most likely a 
pituitary 
macroadenoma with encasement of the right ICA and extension into 
the sphenoid sinus. 
.
Sinus CT ___:
FINDINGS: An approximately 28 x 21 mm expansile lesion in the 
pituitary fossa extends into the suprasellar cistern as noted on 
the recent MRI. Thinning and caudal displacement of the 
tuberculum sella into the sphenoid sinus is again observed. 
Aside from mild ethmoid air cell mucosal thickening, the 
paranasal sinuses and mastoid air cells appear well aerated. The 
orbits appear unremarkable. No other mass lesion is identified. 
IMPRESSION: Expansile mass arising from the pituitary fossa most 
likely 
represents a pituitary macroadenoma. 
.
PENDING STUDIES AT TIME OF DISCHARGE:
IGF-1
alpha subunit
TFTs
 
Brief Hospital Course:
1. HEADACHE, BLURRED VISION
Symptoms may be secondary to sellar mass found on CT or may be 
due to resolving viral illness.  Pt complained of headache 
intermittently during hospitalization, releived with Tylenol.  
Head CT did not show ICH or other etiology for headaches.  
Unlikely to be migraines as pt has not had these symptoms 
before.
.
2. SELLAR MASS
Based on imaging and hormone levels, this is most likely to be 
pituitary macroadenoma.  The patient had decreased FSH and LH 
levels, mildly decreased free T4 levels, normal cortisol and 
slightly elevated prolactin.  Visual field testing was done and 
was normal.  Endocrine was consulted and recommended no 
supplemental hormone treatments.  She was not clinically 
hypothyroid.  Pituitary MRI and sinus CT were done to further 
evaluate sellar mass and plan for surgery.  Neurosurgery 
recommended f/u as outpatient with surgery in 2 weeks.  IGF-1 
and alpha subunit tests were ordered and were pending at the 
time of discharge.
.
3. CHEST PAIN: 
Patient was admited for chest pain and rule out MI.  ECG showed 
no changes and cardiac enzymes were negative X 2.  Chest pain 
did not seem cardiac in nature, as patient stated it had been 
happening for years and was associated with gaseoius burping.  
The patient was put on telemetry and did not have any cardiac 
arrhythmias.  She was given Omeprazole and Simethicone for GI 
symptoms. 
.
4. IMPAIRED FASTING GLUCOSE: 
The patient was admitted with impaired fasting glucose without 
any medications for diabetes.  She was put on fingersticks QID 
and a Humalog sliding scale.  Blood sugars were elevated up to 
200 at times but ranged between 100-200.  The patient was 
instructed to follow-up with her PCP regarding diabetes 
management.
.
5. HYPERTENSION:
The patient was kept on Metoprolol 50mg PO BID.  Blood pressures 
ranged from 130s-150s systolic.
.
PENDING STUDIES AT TIME OF DISCHARGE:
IGF-1
alpha subunit
TFTs
 
Medications on Admission:
Metoprolol 50mg PO BID
 
Discharge Medications:
1. Metoprolol Tartrate 50 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).  
2. Acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
1. Sellar Mass

Secondary Diagnoses:
2. Hypertension
3. Atypical Chest Pain

 
Discharge Condition:
afebrile, hemodynamically stable

 
Discharge Instructions:
You were admitted with headaches and were found to have a 
pituitary mass on head CT and MRI.  You were evaluated by 
neurosurgery and endocrinology.  You should call Dr. ___ to 
arrange for surgery in the next 2 weeks to remove this.

You were evaluated for chest pain and were found not to have any 
damage to you heart by an ECG and blood levels of cardiac 
enzymes.

No changes were made to your medications.  You should continue 
to take them as prescribed.

Please call your doctor or come to the emergency room with any 
fevers > 101, chills, night sweats, nausea and vomiting, 
abdominal pain, persistant chest pain which is not your typical 
symptoms, worsening headaches, changes in your vision such as 
blurred vision, loss of peripheral vision, vision loss, double 
vision, spots in front of your eyes, or any other symptoms that 
concern you.
 
Followup Instructions:
___